US07262212B2
Trimethylsulfoxonium iodide (7.8 g, 35 mmol) was gradually added to a suspension of sodium hydride (1.2 g, 35 mmol) in DMSO (120 ml), under a nitrogen atmosphere, and the mixture was stirred at room temperature for 2 hours. To which a solution of tert-butyl 4-(3-oxobutyl)piperazine-1-carboxylate (6.1 g, 23.8 mmol) in DMSO (10 ml) was gradually added dropwise, and the mixture was stirred at room temperature for 1.5 hours, and then at 50 to 60° C. for 1.5 hours. The reaction solution was allowed to return to room temperature, poured into iced water, and extracted with ethyl acetate three times. The extracts were combined, washed with water three times and then washed with a saturated saline solution, and dried over sodium sulfate. After filtration, the filtrate was concentrated under a reduced pressure to afford tert-butyl 4-[2-(2-methyl-2-oxiranyl)ethyl]piperazine-1-carboxylate (5.6 g, 87%) as a light yellow oil.

reactant | Trimethylsulfoxonium iodide | 35 mmol, 7.8 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 35 mmol, 1.2 g | [H-].[Na+]
reactant | tert-butyl 4-(3-oxobutyl)piperazine-1-carboxylate | 23.8 mmol, 6.1 g | O=C(CCN1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O3
reactant | water | O | H2O
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-[2-(2-methyl-2-oxiranyl)ethyl]piperazine-1-carboxylate | 5.6 g, 87% | CC1(OC1)CCN1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O3
